US04940790
(a) 2-bromo-1-(5-tert.butyl-3-methyl-4-hydroxyphenyl)-ethanone
A solution of 82.5 g (0.4 mol) of 1-(5-tert.butyl-3-methyl-4-hydroxyphenyl)-ethanone in 360 ml of chloroform was added dropwise while stirring to a suspension, heated to boiling, of 179 g (0.8 mol) of copper(II) bromide in 360 ml of ethyl acetate. The mixture was subsequently refluxed for 4 hours until the evolution of hydrogen bromide was complete. After the mixture had been cooled to room temperature, the copper salts were filtered off under suction, the filter residue was washed repeatedly with ethyl acetate, the filtrate was evaporated under reduced pressure, and the solid residue was recrystallized from cyclohexane.

reactant | 1-(5-tert.butyl-3-methyl-4-hydroxyphenyl)-ethanone | 0.4 mol, 82.5 g | C(C)(C)(C)C=1C(=C(C=C(C1)C(C)=O)C)O | C13H18O2
reactant | hydrogen bromide | Br | BrH
solvent | chloroform | 360 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 360 ml | C(C)(=O)OCC | C4H8O2
catalyst | copper(II) bromide | 0.8 mol, 179 g | [Cu](Br)Br
product | 2-bromo-1-(5-tert.butyl-3-methyl-4-hydroxyphenyl)-ethanone | BrCC(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C | C13H17BrO2
